* =====================================================================
* afe_dual_threshold.cir - Muon3 single channel with dual comparators
* DC-coupled MicroFC-30035 -> OPA858 TIA -> low + high TLV3601
* Rev 2 (2026-07-11):
*   - removed shorted Vgnd source (fatal error in ngspice 46: no run at
*     all ever completed with the rev 1 deck; prior "results" were the
*     analyzer's synthetic fallback)
*   - SiPM params from datasheet: CT=850p, TAUD=82n (see frontend lib)
*   - TIA on clean 5 V analog rail (per requirements), comparators and
*     FPGA interface on 3.3 V
*   - HV corrected: Vbr(24.4 typ) + OV(2.5) + VBOT(1.8) = 28.7 V
*   - thresholds scaled to the corrected pulse gain (~11 mV/p.e.)
*   - INJ node no longer floats (bleed inside CHARGE_INJ)
* =====================================================================
.include muon3_frontend.lib

* ---------------- Parameters (override on command line) ------------------
.param NPE=15              ; fired microcells
.param VBOT=1.80           ; TIA non-inverting reference (DAC)
.param VTH_LOW=1.767       ; low (physics) threshold ~3 p.e. below baseline
.param VTH_HIGH=1.580      ; high (shower) threshold ~20 p.e.
.param RF=2000
.param CF=3.3p             ; ~optimal for CT=850p, Rf=2k, GBW 5.5GHz
.param T0=200n             ; pulse arrival
.param VANA=5.0            ; clean analog rail for OPA858
.param VDIG=3.3            ; comparator / FPGA rail

* Supplies
Vana  VANA_R 0 {VANA}
Vdig  VDD33  0 {VDIG}
Vhv   HVQ 0 28.7           ; Vbr 24.4 + OV 2.5 + VBOT 1.8

* DAC references (filtered)
Vvbot VBOTN 0 {VBOT}
Rvb   VBOTN VBOTF 1k
Cvb   VBOTF 0 100n

Vthl  VTHL_N 0 {VTH_LOW}
Rthl  VTHL_N VTHL_F 1k
Cthl  VTHL_F 0 100n

Vthh  VTHH_N 0 {VTH_HIGH}
Rthh  VTHH_N VTHH_F 1k
Cthh  VTHH_F 0 100n

* HV filter + local reservoir (per channel)
Rhv   HVQ CATH 10k
Chv   CATH 0 100n

* SiPM (anode to summing node). 50 cm cable studied in cable_50cm.cir.
Xsipm IN CATH MICROFC_30035 NPE={NPE} T0={T0} QPE=480f CT=850p TAUD=82n

* Protection / summing node
Rser  IN INA 10
Dclp1 INA VANA_R BAV99_CLAMP
Dclp2 0   INA BAV99_CLAMP

* TIA
Xamp  VBOTF INA OUT VANA_R 0 OPA858
Rf    INA OUT {RF}
Cf    INA OUT {CF}

* Dual comparators on 3.3 V rail (active-low outputs)
XcmpL OUT VTHL_F CMPL VDD33 0 TLV3601
XcmpH OUT VTHH_F CMPH VDD33 0 TLV3601

* Series damping into FPGA (iCE40 pins)
Rgl   CMPL FPAL 33
Cgl   FPAL 0 6p
Rgh   CMPH FPAH 33
Cgh   FPAH 0 6p

* ---------------- Charge injection hook (cal mode) -----------------------
* Drive INJ with a fast step for calibration studies, e.g.:
* Vstep INJ 0 PULSE(0 1.0 100n 2n 2n 50n 1)   ; 1.5 pC ~ 3 p.e.
Xinj  INJ INA CHARGE_INJ CINJ=1.5p

* ---------------- Decoupling (place at package pins in layout) -----------
Cdec1 VANA_R 0 100n
Cdec2 VANA_R 0 2.2u
Cdec3 VDD33  0 100n

.control
  set wr_vecnames
  set wr_singlescale
  shell mkdir -p results
  tran 0.2n 1000n
  wrdata results/wave_dual.csv v(OUT) v(CMPL) v(CMPH) v(INA) v(FPAL)
  echo "NGSPICE SINGLE RUN COMPLETE"
.endc
.end
